US04766222
Preparation of 4-carbomethoxy butyryl carnitine chloride
To a solution of carnitine chloride (2.0 g; 10 m moles) in TFA (5 cc), 4-carbomethoxy butyryl chloride (1.65 cc; 12 m moles) was added and the resulting reaction mixture was kept at room temperature under stirring for 24 hours. To this mixture anhydrous ethyl ether was then added. A solid formed which was filtered off and crystallized from hot isopropanol. M.P. 130°-132° C.

reactant | carnitine chloride | 2.0 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | 4-carbomethoxy butyryl chloride | 1.65 cc | C(=O)(OC)CCCC(=O)Cl | C6H9ClO3
solvent | TFA | 5 cc | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-carbomethoxy butyryl carnitine chloride | C(=O)(OC)CCCC(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-] | InChI=1S/C13H23NO6.ClH/c1-14(2,3)9-13(19,8-11(16)17)10(15)6-5-7-12(18)20-4;/h19H,5-9H2,1-4H3;1H/p-1
